US09029366B2
Tert-butyldimethylsilyl chloride (6.05 g, 40.15 mmol) and imidazole (2.92 g, 42.82 mmol) were added to a stirred solution of ethyl 5-oxo-4,5-dihydro-1H-pyrazole-3-carboxylate (4.18 g, 26.76 mmol) in ACN (90 mL). The mixture was stirred at room temperature for 30 minutes, then diluted with water and extracted with AcOEt. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo to yield ethyl 5-{[tert-butyl(dimethyl)silyl]oxy}-1H-pyrazole-3-carboxylate (3.2 g, 44% yield) as a yellow solid, that was used in the next step without further purification.

reactant | Tert-butyldimethylsilyl chloride | 40.15 mmol, 6.05 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 42.82 mmol, 2.92 g | N1C=NC=C1 | C3H4N2
reactant | ethyl 5-oxo-4,5-dihydro-1H-pyrazole-3-carboxylate | 26.76 mmol, 4.18 g | O=C1CC(=NN1)C(=O)OCC | C6H8N2O3
solvent | ACN | 90 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | ethyl 5-{[tert-butyl(dimethyl)silyl]oxy}-1H-pyrazole-3-carboxylate | 3.2 g, 44% yield | [Si](C)(C)(C(C)(C)C)OC1=CC(=NN1)C(=O)OCC | C12H22N2O3Si
